US04514418
6.48 g of 2,2-dichloro-3,3-dimethylcyclopropylmethyl p-toluenesulfonate and 2.0 g of potassium cyanide were suspended in 20 ml of dimethyl formamide, and the mixture was heated at 100° C. for 24 hours with stirring. After cooling, 50 ml of water was added to the reaction mixture. The mixture was extracted with hexane. The hexane layer was washed with water, and dried over sodium sulfate. After drying, the hexane was evaporated under reduced pressure to give 3.8 g of 2,2-dichloro-3,3-dimethylcyclopropylacetonitrile, the desired compound shown above. The boiling point of the product was 96° to 98° C. at 14 mmHg.

reactant | 2,2-dichloro-3,3-dimethylcyclopropylmethyl p-toluenesulfonate | 6.48 g | C1(=CC=C(C=C1)S(=O)(=O)OCC1C(C1(C)C)(Cl)Cl)C | C13H16Cl2O3S
reactant | potassium cyanide | 2.0 g | [C-]#N.[K+]
reactant | water | 50 ml | O | H2O
solvent | dimethyl formamide | 20 ml | CN(C=O)C | C3H7NO
product | 2,2-dichloro-3,3-dimethylcyclopropylacetonitrile | 3.8 g | ClC1(C(C1(C)C)CC#N)Cl | C7H9Cl2N
